US09376422B2
Step 2: Synthesis of methyl 3-amino-2-bromobenzoate
To stirred solution of above crude 2-bromo-3-nitrobenzoate (4 g, 15.38 mmol) in ethanol (20 mL), ammonium chloride (4 g, 74.0 mmol) dissolved in water (20 mL) and iron powder (6.87 g, 123 mmol) were added under stirring. The resulting reaction mixture was heated at 80° C. for 7 h. On completion, the reaction mixture was filtered through celite, washing with water and ethyl acetate and the filtrate extracted with ethyl acetate. The combined organic layers were dried and concentrated under reduced pressure giving the desired crude product (3 g).

reactant | 2-bromo-3-nitrobenzoate | 15.38 mmol, 4 g | BrC1=C(C(=O)[O-])C=CC=C1[N+](=O)[O-]
reactant | ammonium chloride | 74.0 mmol, 4 g | [Cl-].[NH4+]
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
catalyst | iron | 123 mmol, 6.87 g | [Fe] | Fe
product | methyl 3-amino-2-bromobenzoate | 3 g | NC=1C(=C(C(=O)OC)C=CC1)Br | C8H8BrNO2
